US05096919
(E)-3-[4-(2,5-dimethyl-1H-pyrrol-1-yl)phenyl]-N-methyl-2-propenohydroxamic acid (1.85 g) is added to a solution of 0.85 g of tromethamine in 150 ml of methanol. The resulting solution is treated with charcoal, filtered and evaporated to dryness. The residue is crystallized from ether to obtain (E)-3-[4-(2,5-dimethyl-1H-pyrrol-1-yl)phenyl]-N-methyl-2-propenohydroxamic acid tromethamine salt, m.p. 134°-136°.

reactant | (E)-3-[4-(2,5-dimethyl-1H-pyrrol-1-yl)phenyl]-N-methyl-2-propenohydroxamic acid | 1.85 g | CC=1N(C(=CC1)C)C1=CC=C(C=C1)/C=C/C(=O)N(O)C | C16H18N2O2
reactant | tromethamine | 0.85 g | NC(CO)(CO)CO | C4H11NO3
reactant | charcoal | C | CH4
solvent | methanol | 150 ml | CO | CH4O
product | (E)-3-[4-(2,5-dimethyl-1H-pyrrol-1-yl)phenyl]-N-methyl-2-propenohydroxamic acid tromethamine salt | NC(CO)(CO)CO.CC=1N(C(=CC1)C)C1=CC=C(C=C1)/C=C/C(=O)N(O)C | InChI=1S/C16H18N2O2.C4H11NO3/c1-12-4-5-13(2)18(12)15-9-6-14(7-10-15)8-11-16(19)17(3)20;5-4(1-6,2-7)3-8/h4-11,20H,1-3H3;6-8H,1-3,5H2/b11-8+;
